US05118686
Ethyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxylate
A stirred solution of 6-hydroxy-2-(2-propoxyphenyl) pyrimidine-4-carboxylic acid (1.06g) in ethanol and concentrated sulphuric acid (0.5 ml) was heated under reflux for 3 hours. Most of the ethanol was removed under reduced pressure, then ice-water was added to the residue. The mixture was made alkaline (pH 10-11) with sodium carbonate solution and then extracted with chloroform (3×25 ml). The combined chloroform extracts were washed with water, dried (magnesium sulphate) and evaporated under reduced pressure to yield after washing with petroleum ether (b.p. 40°-60°) the title compound, 0.85g, m.p. 135.5°-137° C. A sample (0.4g) was recrystallised from ethanol to yield the pure title compound, 0.22g, m.p. 137°-8° C.

reactant | 6-hydroxy-2-(2-propoxyphenyl) pyrimidine-4-carboxylic acid | 1.06g | OC1=CC(=NC(=N1)C1=C(C=CC=C1)OCCC)C(=O)O | C14H14N2O4
reactant | ethanol | C(C)O | C2H6O
solvent | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 6-hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxylate | OC1=CC(=NC(=N1)C1=C(C=CC=C1)OCCC)C(=O)OCC | C16H18N2O4
